US08470841B2
Methyl {3-[4-(6-isopropoxypyridin-3-yloxy)phenyl]-1-methylpropyl}carbamate
3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropylamine trifluoroacetate (115 mg, 0.28 mmol) was reacted with methyl chloroformate in analogy to example 44. Yield: 48 mg (48%), M+H+: 359.13.

reactant | 3-[4-(6-Isopropoxypyridin-3-yloxy)phenyl]-1-methylpropylamine trifluoroacetate | 0.28 mmol, 115 mg | FC(C(=O)O)(F)F.C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)N
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | Methyl {3-[4-(6-isopropoxypyridin-3-yloxy)phenyl]-1-methylpropyl}carbamate | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(OC)=O | C20H26N2O4
